### PR TITLE
[Merged by Bors] - feat(Algebra/Group/Units/Hom): add map lemmas

### PR DESCRIPTION
**Pull request by Multramate**
This PR continues the work from #25609.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25609

### CODE REVIEW

**Comment by Multramate** [comment]
## Comments from Original PR #25609

*This section contains 15 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-06-09 00:04 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2954344854)):
### PR summary [02c9f7384f](https://github.com/leanprover-community/mathlib4/pull/25609/commits/397a986acac93a3c33c14e535bd0f097a9aa70dd)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ map_bijective`
`+ unit_inv_map`
`+ unit_map`
`+ val_inv_inj`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

---

**@erdOne** ([2025-06-09 13:17 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955771414)):
I don't think this is the right definition. We shouldn't see these classes in defs.

---

**@Multramate** ([2025-06-09 13:23 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955786357)):
> I don't think this is the right definition. We shouldn't see these classes in defs.

I don't know how these things are designed, but what I really need is this result:
```
@[to_additive]
theorem unit_inv_map [MonoidHomClass F M N] (f : F) {x : M} (h : IsUnit x) : (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := by
  simp_rw [← Units.coe_map, map_inv, Units.val_inv_inj, Units.coe_map, unit_spec]
```
I think I was having trouble proving this cleanly (using `rw` and no defeq abuses).

---

**@Multramate** ([2025-06-09 13:30 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955804711)):
I guess I could revert `map` to `MonoidHom` but keep all the API lemmas about `MonoidHomClass`?
```
/-- The group homomorphism on units induced by a `MonoidHom`. -/
@[to_additive "The additive homomorphism on `AddUnit`s induced by an `AddMonoidHom`."]
def map (f : M →* N) : Mˣ →* Nˣ :=
  MonoidHom.mk'
    (fun u => ⟨f u.val, f u.inv, by simp [← map_mul], by simp [← map_mul]⟩) fun _ _ => ext (by simp)

@[to_additive (attr := simp)]
theorem coe_map (f : F) (x : Mˣ) : ↑(map (f : M →* N) x) = f x := rfl

@[to_additive (attr := simp)]
theorem coe_map_inv (f : F) (u : Mˣ) : ↑(map (f : M →* N) u)⁻¹ = f ↑u⁻¹ := rfl

@[to_additive (attr := simp)]
theorem map_mk (f : F) (val inv : M) (val_inv inv_val) : map f (mk val inv val_inv inv_val) =
    mk (f val) (f inv) (by simp [← map_mul, val_inv]) (by simp [← map_mul, inv_val]) := rfl

@[to_additive (attr := simp)]
theorem map_comp (f : F) (g : G) : map ((g : N →* P).comp f) = (map g).comp (map (f : M →* N)) :=
  rfl

@[to_additive]
theorem map_injective {f : F} (hf : Function.Injective f) : Function.Injective (map (f : M →* N)) :=
  fun _ _ e => ext (hf (congr_arg val e))
```
Let me know if this acceptable.

---

**@erdOne** ([2025-06-09 13:46 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955846809)):
Why do you need it in the first place? Is the following (and applying it to `f.toMonoidHom`) not enough?
```
@[to_additive]
theorem unit_inv_map (f : M →* N) {x : M} (h : IsUnit x) : (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := by
  simp_rw [← Units.coe_map, map_inv, Units.val_inv_inj, Units.coe_map, unit_spec]
```

---

**@Multramate** ([2025-06-09 13:57 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955875791)):
> Why do you need it in the first place? Is the following (and applying it to `f.toMonoidHom`) not enough?
> 
> ```
> @[to_additive]
> theorem unit_inv_map (f : M →* N) {x : M} (h : IsUnit x) : (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := by
>   simp_rw [← Units.coe_map, map_inv, Units.val_inv_inj, Units.coe_map, unit_spec]
> ```

I don't think it's enough. How would you prove this without defeq abuses?
```
example {M N : Type*} [Semiring M] [Semiring N] (f : M →+* N) {x : M} (h : IsUnit x) :
    (h.map f).unit⁻¹ = f ↑h.unit⁻¹ :=
  sorry
```
Note that the other lemmas in the same section as `unit_inv_map` are stated for `MonoidHomClass`.

---

**@erdOne** ([2025-06-09 14:02 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955889929)):
```
example {M N : Type*} [Semiring M] [Semiring N] (f : M →+* N) {x : M} (h : IsUnit x) :
    (h.map f).unit⁻¹ = f ↑h.unit⁻¹ := Units.inv_eq_of_mul_eq_one_left (by simp [← map_mul])
```

---

**@Multramate** ([2025-06-09 14:16 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955932193)):
This proof also works for all `MonoidHomClass`! So why are we restricting the lemma statement to `MonoidHom`? I still don't quite get when we want to state things for concrete homs or when we want to state things for hom classes, and the inconsistency in the file doesn't help. I could understand that we might not want hom classes for defs, but what about lemmas?

---

**@erdOne** ([2025-06-09 14:33 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2955980780)):
This (and other generic lemma) could be stated for `MonoidHomClass`. But defs shouldn't mention them because you then have multiple ways to write a def which is bad.
And API for a def should just be written for the generality of the def.

---

**@Multramate** ([2025-06-09 15:09 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2956083869)):
I'm convinced that I should revert `Units.map`, but I'm not convinced about the difference between API and generic lemmas. Arguably `Units.map_comp` and `Units.map_injective` are "generic lemma"s?

In any case, I think my new `Units.coe_map` might still be useful:
```
variable {M N : Type*} [Monoid M] [Monoid N]

theorem Units.coe_map_old (f : M →* N) (x : Mˣ) : ↑(map f x) = f x := rfl

theorem Units.coe_map_new {F : Type*} [FunLike F M N] [MonoidHomClass F M N] (f : F) (x : Mˣ) :
    ↑(map (f : M →* N) x) = f x := rfl

example (f : M ≃* N) (x : Mˣ) : Units.map (f : M →* N) x = f x := by
  rw [Units.coe_map_old, MonoidHom.coe_coe]

example (f : M ≃* N) (x : Mˣ) : Units.map (f : M →* N) x = f x := by
  rw [Units.coe_map_new]

example (f : M ≃* N) (x : Mˣ) : Units.map f.toMonoidHom x = f x := by
  rw [MulEquiv.toMonoidHom_eq_coe, Units.coe_map_old, MonoidHom.coe_coe]

example (f : M ≃* N) (x : Mˣ) : Units.map f.toMonoidHom x = f x := by
  rw [MulEquiv.toMonoidHom_eq_coe, Units.coe_map_new]
```
This reduces one instance of `MonoidHom.coe_coe`. Your proof of `IsUnit.unit_inv_map` for my example with semirings uses `Units.inv_eq_of_mul_eq_one_left`, which suggests that the old `Units.coe_map` is not friendly in the first place.

---

**@erdOne** ([2025-06-09 15:21 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2956117092)):
We are removing coercions from `MonoidHomClass` to `MonoidHom`s (see e.g. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/simp.20normal.20form.20for.20symm.20and.20coercions/with/523038032), and then your lemma will not type check.

---

**@Multramate** ([2025-06-09 15:35 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2956156511)):
I could still phrase this as:
```
theorem Units.coe_map_new {F : Type*} [FunLike F M N] [MonoidHomClass F M N] (f : F) (x : Mˣ) :
    ↑(map f.toMonoidHom x) = f x := rfl
```
Or are you saying this will also be removed?

---

**@erdOne** ([2025-06-09 15:46 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2956183997)):
Hmmm this doesn't typecheck for me even on current mathlib.

---

**@Multramate** ([2025-06-09 15:47 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2956187119)):
Yeah sorry, I meant `MonoidHomClass.toMonoidHom f` rather than `f.toMonoidHom`.

In any case I think the simp removals would change the direction of the entire file, so adding the coercions right now to these few lemmas will just add an epsilon amount of extra work, and I don't think there's much harm.

---

**@Multramate** ([2025-06-09 16:04 UTC](https://github.com/leanprover-community/mathlib4/pull/25609#issuecomment-2956232496)):
OK that seems to have broken a lot of other things: e.g. `Units.map f x` no longer simplifies if `f` is actually a `MonoidHom` rather than something coerced to a `MonoidHom`. I will be content with just having an ad-hoc `unit_map_inv` and give up.

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 1]
```diff
@@ -61,16 +61,13 @@ end MonoidHomClass
...
 
 /-- The group homomorphism on units induced by a `MonoidHom`. -/
 @[to_additive "The additive homomorphism on `AddUnit`s induced by an `AddMonoidHom`."]
 def map (f : M →* N) : Mˣ →* Nˣ :=
   MonoidHom.mk'
-    (fun u => ⟨f u.val, f u.inv,
-      by rw [← f.map_mul, u.val_inv, f.map_one],
-      by rw [← f.map_mul, u.inv_val, f.map_one]⟩)
-    fun x y => ext (f.map_mul x y)
+    (fun u => ⟨f u.val, f u.inv, by simp [← map_mul], by simp [← map_mul]⟩) fun _ _ => ext (by simp)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Units/Hom.lean]: Let's at least keep the arguments on separate lines
```suggestion
    (fun u => ⟨f u.val, f u.inv, by simp [← map_mul], by simp [← map_mul]⟩)
    fun _ _ => ext (by simp)
```

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 2]
```diff
@@ -79,17 +76,23 @@ theorem coe_map (f : M →* N) (x : Mˣ) : ↑(map f x) = f x := rfl
 theorem coe_map_inv (f : M →* N) (u : Mˣ) : ↑(map f u)⁻¹ = f ↑u⁻¹ := rfl
 
 @[to_additive (attr := simp)]
-lemma map_mk (f : M →* N) (val inv : M) (val_inv inv_val) :
-    map f (mk val inv val_inv inv_val) = mk (f val) (f inv)
-      (by rw [← f.map_mul, val_inv, f.map_one]) (by rw [← f.map_mul, inv_val, f.map_one]) := rfl
+theorem map_mk (f : M →* N) (val inv : M) (val_inv inv_val) : map f (mk val inv val_inv inv_val) =
+    mk (f val) (f inv) (by simp [← map_mul, val_inv]) (by simp [← map_mul, inv_val]) := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Units/Hom.lean]: This is less readable, please revert

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 3]
```diff
@@ -79,17 +76,23 @@ theorem coe_map (f : M →* N) (x : Mˣ) : ↑(map f x) = f x := rfl
...
 
 @[to_additive (attr := simp)]
 theorem map_comp (f : M →* N) (g : N →* P) : map (g.comp f) = (map g).comp (map f) := rfl
 
 @[to_additive]
-lemma map_injective {f : M →* N} (hf : Function.Injective f) :
+theorem map_injective {f : M →* N} (hf : Function.Injective f) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Units/Hom.lean:94]: Please revert

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks

File: Mathlib/Algebra/Group/Units/Hom.lean (hunk 3 above)
Comment (Multramate) [reply Mathlib/Algebra/Group/Units/Hom.lean:94]: No, we should follow the rest of file calling it `theorem`

File: Mathlib/Algebra/Group/Units/Hom.lean [hunk 4]
```diff
@@ -86,17 +83,24 @@ theorem coe_map (f : M →* N) (x : Mˣ) : ↑(map f x) = f x := rfl
 theorem coe_map_inv (f : M →* N) (u : Mˣ) : ↑(map f u)⁻¹ = f ↑u⁻¹ := rfl
 
 @[to_additive (attr := simp)]
-lemma map_mk (f : M →* N) (val inv : M) (val_inv inv_val) :
-    map f (mk val inv val_inv inv_val) = mk (f val) (f inv)
-      (by rw [← f.map_mul, val_inv, f.map_one]) (by rw [← f.map_mul, inv_val, f.map_one]) := rfl
+theorem map_mk (f : M →* N) (val inv : M) (val_inv inv_val) :
+  map f (mk val inv val_inv inv_val) =
+    mk (f val) (f inv) (by simp [← map_mul, val_inv]) (by simp [← map_mul, inv_val]) := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Group/Units/Hom.lean]:
```suggestion
    map f (mk val inv val_inv inv_val) =
      mk (f val) (f inv) (by simp [← map_mul, val_inv]) (by simp [← map_mul, inv_val]) := rfl
```

**Review by robin-carlier — COMMENTED** [review]
Thanks! I have no strong opinion on changing `lemma` to `theorem`. Only nit is an indentation that got lost.

maintainer delegate
